US04788206
As described in Example 99, (E,E)-5-(4-methoxyphenyl)-2,4-heptadecadienoic acid methyl ester (11.9 g) was saponified in a refluxing mixture of methanol (30 mL) and 2N NaOH (30 mL). After 2.5 hours the crude acid was isolated in the usual way and was crystallized from hexane to give 7.86 g of (E,E)-5-(4-methoxyphenyl)-2,4-heptadecadienoic acid. A sample was recrystallized from the same solvent to afford the analytical specimen, mp 85°-88° C.

reactant | (E,E)-5-(4-methoxyphenyl)-2,4-heptadecadienoic acid methyl ester | 11.9 g | COC(\C=C\C=C(/CCCCCCCCCCCC)\C1=CC=C(C=C1)OC)=O | C25H38O3
reactant | NaOH | 2N, 30 mL | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | (E,E)-5-(4-methoxyphenyl)-2,4-heptadecadienoic acid | 7.86 g | COC1=CC=C(C=C1)/C(=C/C=C/C(=O)O)/CCCCCCCCCCCC | C24H36O3
